US08138189B2
Step 4: 5-[2-(2-Chloro-5-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one
In analogy to Example 165, step 3, 5-[2-(2-chloro-5-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one was reacted with (trifluoromethyl)trimethylsilane and tetramethylammonium fluoride to give the title compound as a light grey foam. MS (m/e)=376.2 [M+H+].

reactant | 5-[2-(2-chloro-5-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C=C1)OC)C(C(=O)C=1C=CC(N(C1)C)=O)C | C16H16ClNO3
reactant | (trifluoromethyl)trimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetramethylammonium fluoride | [F-].C[N+](C)(C)C
product | 5-[2-(2-Chloro-5-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C=C1)OC)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C17H17ClF3NO3
